*** SPICE deck for cell Nand2{lay} from library Leveille_myGates-2020-02-10
*** Created on Mon Feb 10, 2020 17:40:39
*** Last revised on Thu Feb 13, 2020 15:10:46
*** Written on Thu Feb 13, 2020 15:11:04 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** SUBCIRCUIT Leveille_myGates-2020-02-10__Inv FROM CELL Inv{lay}
.SUBCKT Leveille_myGates-2020-02-10__Inv gnd in out vdd
Mnmos@0 out in#2nmos@0_poly-right gnd gnd N L=0.6U W=1.8U AS=3.195P AD=5.108P PS=7.5U PD=9.3U
Mpmos@0 out in#0pmos@0_poly-left vdd vdd P L=0.6U W=3.6U AS=7.02P AD=5.108P PS=11.1U PD=9.3U
** Extracted Parasitic Capacitors ***
C0 out 0 4.735fF
C1 in 0 0.307fF
C2 in#2nmos@0_poly-right 0 0.126fF
C3 in#1pin@6_polysilicon-1 0 0.543fF
C4 in#0pmos@0_poly-left 0 0.11fF
** Extracted Parasitic Resistors ***
R0 in#0pmos@0_poly-left in#0pmos@0_poly-left##0 7.233
C5 in#0pmos@0_poly-left##0 0 0.11fF
R1 in#0pmos@0_poly-left##0 in#0pmos@0_poly-left##1 7.233
C6 in#0pmos@0_poly-left##1 0 0.11fF
R2 in#0pmos@0_poly-left##1 in#1pin@6_polysilicon-1 7.233
R3 in#1pin@6_polysilicon-1 in#1pin@6_polysilicon-1##0 8.267
C7 in#1pin@6_polysilicon-1##0 0 0.126fF
R4 in#1pin@6_polysilicon-1##0 in#1pin@6_polysilicon-1##1 8.267
C8 in#1pin@6_polysilicon-1##1 0 0.126fF
R5 in#1pin@6_polysilicon-1##1 in#2nmos@0_poly-right 8.267
R6 in in#1pin@6_polysilicon-1 7.44
.ENDS Leveille_myGates-2020-02-10__Inv

*** TOP LEVEL CELL: Nand2{lay}
XInv@0 Inv@0_gnd Inv@0_in Inv@0_out Inv@0_Vdd Leveille_myGates-2020-02-10__Inv
Mnmos@2 net@36 a#0nmos@2_poly-left net@6 gnd N L=0.6U W=3.6U AS=4.32P AD=5.58P PS=6U PD=7.9U
Mnmos@3 net@6 b#0nmos@3_poly-left gnd gnd N L=0.6U W=3.6U AS=8.1P AD=4.32P PS=11.7U PD=6U
Mpmos@0 net@36#2pmos@0_diff-bottom a#2pmos@0_poly-left vdd vdd P L=0.6U W=3.6U AS=7.02P AD=5.58P PS=11.1U PD=7.9U
Mpmos@1 vdd b#2pmos@1_poly-left net@36#2pmos@0_diff-bottom vdd P L=0.6U W=3.6U AS=5.58P AD=7.02P PS=7.9U PD=11.1U
** Extracted Parasitic Capacitors ***
C0 a 0 0.803fF
C1 b 0 0.901fF
C2 net@36#6pin@21_metal-2 0 4.385fF
C3 a#0nmos@2_poly-left 0 0.157fF
C4 b#0nmos@3_poly-left 0 0.157fF
C5 a#2pmos@0_poly-left 0 0.151fF
C6 b#2pmos@1_poly-left 0 0.151fF
** Extracted Parasitic Resistors ***
R0 a#0nmos@2_poly-left a#0nmos@2_poly-left##0 9.3
C7 a#0nmos@2_poly-left##0 0 0.157fF
R1 a#0nmos@2_poly-left##0 a#0nmos@2_poly-left##1 9.3
C8 a#0nmos@2_poly-left##1 0 0.157fF
R2 a#0nmos@2_poly-left##1 a#0nmos@2_poly-left##2 9.3
C9 a#0nmos@2_poly-left##2 0 0.157fF
R3 a#0nmos@2_poly-left##2 a#0nmos@2_poly-left##3 9.3
C10 a#0nmos@2_poly-left##3 0 0.157fF
R4 a#0nmos@2_poly-left##3 a 9.3
R5 a a##0 9.3
C11 a##0 0 0.151fF
R6 a##0 a##1 9.3
C12 a##1 0 0.151fF
R7 a##1 a##2 9.3
C13 a##2 0 0.151fF
R8 a##2 a#2pmos@0_poly-left 9.3
R9 b#0nmos@3_poly-left b#0nmos@3_poly-left##0 9.3
C14 b#0nmos@3_poly-left##0 0 0.157fF
R10 b#0nmos@3_poly-left##0 b#0nmos@3_poly-left##1 9.3
C15 b#0nmos@3_poly-left##1 0 0.157fF
R11 b#0nmos@3_poly-left##1 b#0nmos@3_poly-left##2 9.3
C16 b#0nmos@3_poly-left##2 0 0.157fF
R12 b#0nmos@3_poly-left##2 b#0nmos@3_poly-left##3 9.3
C17 b#0nmos@3_poly-left##3 0 0.157fF
R13 b#0nmos@3_poly-left##3 b 9.3
R14 b b##0 9.3
C18 b##0 0 0.151fF
R15 b##0 b##1 9.3
C19 b##1 0 0.151fF
R16 b##1 b##2 9.3
C20 b##2 0 0.151fF
R17 b##2 b#2pmos@1_poly-left 9.3
R18 net@36#2pmos@0_diff-bottom net@36#6pin@21_metal-2 0
R19 net@36 net@36#6pin@21_metal-2 0
.END
